Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet / Banana / latex / Macrobid / melatonin
 
Attending: ___.
 
Chief Complaint:
dyspnea, chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/CHF, COPD (Gold Stage II) on chronic azithro (no 
prednisone), valvular heart disease (3+ MR/2+TR per ___ TTE), 
and atrial fibrillation, remote h/o colorectal ca s/p ostomy, 
suprapubic catheter, presenting with malaise x 4 days, and new 
onset chest pain and dyspnea. 

The patient is interviewed with her daughter at bedside. They 
reports that her symptoms started four to five days prior to 
presenatation with general feeling of unwell, and significant 
cough. Sought assessment at ___ in ___. CXR reportedly 
without e/o of pneumonia. Given chronic azithro and negative 
radiographic findings, no escalation of antibiotics. Per NP 
note, HR noted to be 120+; dig added, no changes to patient's 
metoprolol. Symptoms persisted and worsened through the weekend. 
Patient and daughter state they were not able to go in for 
reassessment during the weekend d/t the holiday. Endorses 
increased sputum production, and characterizes the color and 
green; denies sinus pain. Endorses sick contacts at her nursing 
home. Has been using Duonebs at home QID, with some initial 
improvement of her symptoms, but then became more resistant. 
Denied objective fevers. Treated with UTI last week with unknown 
antibiotic. 

Was prompted to come into the ED because of escalating shortness 
of breath and chest discomfort. Patient denies chest discomfort 
for my interview, but per the ED, she had characterized the cp 
as bilateral chest pressure. 

In the ED, initial vitals were:   97.9 122  167/90  98% nc 
Exam notable for HR140, irregular. bibasilar crackles 
Labs showed hyponatremia 118 --> 120, K 6.9 (3.8 on recheck); Cr 
1.2 (baseline Cr 1.0-1.1); Dig: 0.7; anemia 86/18; grossly 
positive U/A 
Imaging showed  Mild cardiomegaly, mild pulmonary vascular 
congestion, no frank pulmonary edema. Small bilateral pleural 
effusions with patchy bibasilar opacities
Received IV diltizaem 15, oral diltizem 30, IV levofloxacin 750 
mg, furosemide 20 IV. 
Transfer VS were  97.8  78  130/71  17  95% RA  

Decision was made to admit to medicine for further management.  

On arrival, patient endorses the above. Breathing has improved. 
Dtr reports new per-istomal wounds since ___, but has not 
reevaled them since then. Patient endorses pain around ostomy 
site. Endorses suprapubic leakage but no pain; endorses some 
feeling of discomfort and urgency given the bulb in the 
catheter. States that were schedule to have it replaced by 
Urology this week.  Denies back pain. Denies diarrhea. Denies 
weight gain, rather states she has had 30lb weight loss for 
several months, and keeps losing weight. Dtr endorses poor oral 
intake. 

At 0200, patient complained of L mid axillary line chest 
discomfort at ~10th rib, not reproduced with palpation; pt 
denied sob, diaphoresis, nausea, although dtr state that she saw 
the patient have increased effort of breathing and wheezing. EKG 
without change from prior. 
 
Past Medical History:
Anemia  
Anxiety/Depression  
Cataracts  
COPD  
Hip fracture s/p repair  
Hyperlipidemia  
Hypothyroidism  
Hypertension  
s/p removal of left parotid gland  
Osteoarthritis  
Osteoporosis  
Peripheral vascular disease  
Colon cancer in ___  
Urinary incontinence  
History of left adnexal cystic lesion on pelvic MRI ___ 
unchanged from prior.  

 
Social History:
___
Family History:
Mother died of MI at age ___. Father with stroke, cancer at age 
___. Daughter w/ PE in ___ she also has a history of DVT after 
car accident in ___. 
 
Physical Exam:
Admission Physical Exam:
========================
Vital Signs:  97.8  127/75   72  24  96%RA
General: chronically ill appearing elderly female, no acute 
distress. cachetic   
HEENT: NCAT, +conjunctival pallor; JVP at clavicle at upright 
(exaggerated JVP increase with inspiration likely ___ to known 
valvular regurg)  
CV: Irregular rate and rhythm, normocardic, ___ systolic murmur 
Lungs: dry inspiratory and expiratory crackles throughout; pops 
in RML; sparse wheezing; 
Abdomen: LLQ ostomy; ostomy appears pink and healthy; stool 
brown and formed. Upon removing ostomy bag, 2 2cm dark mass 
appearing lesions at 5o clock positions, tender to palpation 
with associated purulence. Shallow ulcerations noted at 3 o 
clock and 8 o clock positions, no drainage. Ostomy otherwise not 
tender when palpated. NABS, soft; ?small mass with deep 
palpation of LLQ. Reducible peristomal hernia. 
GU: No foley  
Ext: warm, no edema   
Neuro: cranial nerves grossly intact; adentulous

Discharge Physical Exam:
======================== 
Vital signs: 97.3 157/81 89 18 94% RA
General: thin, frail appearing, appears younger than stated age. 
 
HEENT: NCAT  
Neck: supple  
CV: Irregular rhythm, normal rate, ___ systolic murmur  
Lungs: decreased breath sounds throughout, but overall good 
aeration. 
Abdomen: Soft, nondistended. no significant tenderness. LLQ 
ostomy, suprapubic catheter both in place, appear c/d/I.  
Ext: warm and well perfused, no edema  

 
Pertinent Results:
Admission Labs:
===============
___ 05:15PM BLOOD WBC-6.9 RBC-3.42* Hgb-9.1* Hct-28.3* 
MCV-83 MCH-26.6 MCHC-32.2 RDW-14.8 RDWSD-44.3 Plt ___
___ 05:15PM BLOOD Neuts-76.0* Lymphs-13.7* Monos-6.9 
Eos-2.3 Baso-0.7 Im ___ AbsNeut-5.26 AbsLymp-0.95* 
AbsMono-0.48 AbsEos-0.16 AbsBaso-0.05
___ 05:35AM BLOOD ___ PTT-29.1 ___
___ 05:15PM BLOOD Glucose-147* UreaN-11 Creat-1.2* Na-118* 
K-6.9* Cl-86* HCO3-18* AnGap-21*
___ 05:15PM BLOOD CK(CPK)-106
___ 05:15PM BLOOD CK-MB-3 ___
___ 05:15PM BLOOD cTropnT-<0.01
___ 11:44PM BLOOD CK-MB-3 cTropnT-<0.01
___ 01:06AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:35AM BLOOD CK-MB-4 cTropnT-<0.01
___ 05:15PM BLOOD Calcium-8.4 Phos-4.2 Mg-1.7
___ 05:15PM BLOOD Digoxin-0.7*
___ 05:35AM BLOOD TSH-0.32
___ 05:35AM BLOOD Cortsol-23.7*

Imaging:
========
___ CXR:
Mild cardiomegaly, as seen previously, with mild pulmonary 
vascular 
congestion, but no frank pulmonary edema.  Small bilateral 
pleural effusions with patchy bibasilar opacities, potentially 
atelectasis, but infection or aspiration is not excluded in the 
correct clinical setting.

___ CT Head:
1. No acute intracranial abnormalities. 
2. Global parenchymal volume loss and sequela of chronic small 
vessel ischemic disease.

___ TTE:
The left atrium is moderately dilated. Diastolic function could 
not be assessed. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The number of aortic valve 
leaflets cannot be determined. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Moderate (2+) mitral regurgitation is seen. Due to the 
eccentric nature of the regurgitant jet, its severity may be 
significantly underestimated (Coanda effect). Moderate to severe 
[3+] tricuspid regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. [In the setting of at least 
moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] There is no pericardial 
effusion. 

IMPRESSION: 
1) Normal biventricular regional/global systolic function.
2) At least moderate mitral regurgitation (difficult to assess 
due to Coanda effect) due to possibly partial anterior mitral 
valve leaflet flail.
3) Moderate to severe tricuspid regurgitation with normal RV 
size/function in setting of at least mild elevation of RV 
afterload.

___ CXR:
Small left pleural effusion has increased.  Increased left 
basilar opacity, may represent atelectasis or developing 
pneumonia.

___ KUB:
IMPRESSION: 
1. No abnormally dilated loops of small or large bowel to 
suggest obstruction. 
2. Enteric tube terminates in stable position in the expected 
position of the stomach body. 

___ CXR:
IMPRESSION:    
COMPARED TO CHEST RADIOGRAPHS SINCE ___, MOST RECENTLY 
___. 
  
LUNGS ARE CLEAR ON ___.  ON ___ BIBASILAR 
OPACIFICATION HAD DEVELOPED ALONG WITH AN INCREASE IN SMALL 
BILATERAL PLEURAL EFFUSIONS. CONSOLIDATIONS IMPROVED ON ___, BUT SUBSEQUENTLY FIRST CONSOLIDATION IN THE LEFT LOWER LOBE 
AND NOW IN THE RIGHT LOWER LOBE HAD DEVELOPED, PROBABLY 
PNEUMONIA.  THERE IS NO PULMONARY EDEMA.  PLEURAL EFFUSIONS 
REMAIN SMALL. 
  
OF NOTE THE STOMACH IS MODERATELY TO SEVERELY DISTENDED WITH AIR 
AND FLUID 
RAISING QUESTION OF GASTRIC OUTLET OBSTRUCTION PREDISPOSING TO 
REFLUX AND 
ASPIRATION. 
 
  
Discharge Labs:
=============== 
___ 04:50AM BLOOD WBC-11.2* RBC-3.57* Hgb-9.4* Hct-30.9* 
MCV-87 MCH-26.3 MCHC-30.4* RDW-15.0 RDWSD-46.9* Plt ___
___ 04:52AM BLOOD Neuts-88.8* Lymphs-5.1* Monos-5.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.98*# AbsLymp-0.63* 
AbsMono-0.63 AbsEos-0.00* AbsBaso-0.02
___ 04:50AM BLOOD Plt ___
___ 05:50AM BLOOD ___
___ 04:50AM BLOOD Glucose-99 UreaN-32* Creat-0.9 Na-144 
K-3.7 Cl-109* HCO3-24 AnGap-15
___ 05:18AM BLOOD ALT-19 AST-12 AlkPhos-56 TotBili-0.4
___ 04:50AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.___ with PMH CHF, COPD (Gold Stage II) on chronic azithromycin, 
valvular heart disease (3+ MR/2+TR per ___ TTE), and atrial 
fibrillation, remote h/o colorectal cancer s/p ostomy, and 
suprapubic catheter, who presented with malaise x 4 days, 
hyponatremia, and new onset cough and dyspnea, thought to be 
secondary to pulmonary edema as well as pneumonia. Hospital 
course complicated by epigastric pain/ileus thought to be 
secondary to initiation of diltiazem, which improved, and new 
pneumonia noted on CXR prior to discharge.

# Dyspnea:
# Acute on chronic diastolic CHF: presented with worsening 
dyspnea. Also endorsed orthopnea, and BNP > 11,000 (previously 
1800 one year ago). CXR with mild opacities, possible 
atelectasis vs. aspiration vs. infection as well as pulmonary 
vascular congestion. TTE did not reveal any new systolic 
dysfunction. Overall her dyspnea was thought to be secondary to 
mild fluid overload, aspiration, and possibly URI/mild 
pneumonia. She was initially treated broadly with vanc and 
levofloxacin 750 mg PO Q48H. Vancomycin was discontinued given 
negative MRSA swab and she completed a 5 day course of 
levofloxacin finishing on ___. She was diuresed with IV Lasix 
boluses 20mg BID until she developed an increase in her 
creatinine. Home torsemide was re-intiated at same dose as 
prior, and patient appeared euvolemic at time of discharge. 2 
days prior to discharge, new area of likely pneumonia seen on 
CXR. Patient without fever, and good O2 sat on RA. Started 
ceftriaxone, transitioned to cefpodoxime for total ___nding ___ (see transitional issues below).
- Discharge Cr: 0.9
- Discharge weight: 39.3 kg (bed weight, may not be accurate)

# Fever: 100.7 on ___. CXR revealed likely atelectasis but 
could not rule out infection. Blood cultures were sent and were 
no growth at time of discharge. She had a grossly positive UA, 
expected given suprapubic catheter. Urine culture with no growth 
and no GU symptoms at time of discharge.

# Epigastric pain / Illeus: Patient developed significant 
abdominal pain and distension requiring NG tube placement 4 days 
prior to discharge, with improvement in symptoms after 
suctioning. Thought to be secondary to initiation of diltiazem, 
and diltiazem was d/c'ed and metoprolol reinitiated (see below). 
Epigastric pain improved and patient was drinking adequately, 
and drinking small amounts prior to discharge.

# Atrial fibrillation: RVR on arrival, improved with diltiazem 
IV and then PO diltiazem. The timing of diltiazem initiation 
coincided with GI symptoms (per above) and so this was stopped, 
and metoprolol was restarted at a higher dose with good effect, 
and HR was in the ___ to low 100s. She had recently been started 
on digoxin at urgent care. This was initially stopped but then 
restarted due to difficulty controlling rates during 
hospitalization.

# Hyponatremia: presented with serum Na of 118. Urine Na was 116 
prior to Lasix, likely SIADH. Patient reports recently 
increasing her free water intake which may explain acute onset. 
Na normalized with free water restriction.
 
# Chest pain: troponins negative x 4, poor historian. EKG was 
without ischemic changes. Likely musculoskeletal/epigastric 
pain.

# COPD: Gold stage II on chronic azithromycin. No wheezing on 
exam without evidence of active COPD exacerbation. Continued 
home tiotropium bromide 1 cap daily, ipratroprium-albuterol neb 
Q6H, and albuterol nebs prn. Home symbicort was non formulary 
and she was treated with inhaled fluticasone. 

# Ostomy: patient with peristomal raised lesions. Seen by 
colorectal surgery who recommended dermatology consult to rule 
out malignancy. They felt that this was not urgent andcould be 
done as outpatient. ___ require treatment with steroids

Transitional Issues:
====================
- INCREASED metoprolol succinate to 100mg in setting of afib w 
RVR. Initially changed to diltiazem but d/c'ed diltiazem due to 
abd symptoms (see above) 
- STARTED digoxin 0.25mg
- Patient noted to aspirate on speech and swallow evaluation. 
Should take only thickened liquids
- Please check video swallow once patient fully stable as 
outpatient, per recommendation of speech and swallow
- Discharged on 1.5L fluid restriction - hyponatremic on 
admission with Na of 118. Urine lytes consistent with SIADH. 
- CONTINUE home dose of torsemide 
- Please coordinate non-urgent dermatology evaluation for 
periostomal ulcers, may need steroid treatment
- RECHECK TSH as an outpatient. Borderline low on admission at 
0.32, consider decreasing dose of levothyroxine as outpatient 
given RVR on presentation (although more likely secondary to 
volume overload)
- STARTED cefpodoxime day for 5 days (first day ___, last day 
___
- HELD azithromycin (chronic UTI suppression) given on 
cefpodoxime and given its interaction with donepezil. Consider 
restarting. Please check EKG prior for QTc monitoring
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pyridoxine 250 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
5. Calcium Carbonate 1000 mg PO BID 
6. Omeprazole 20 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Donepezil 10 mg PO QHS 
9. Levothyroxine Sodium 137.5 mcg PO DAILY 
10. Senna 8.6 mg PO DAILY 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Mirtazapine 15 mg PO QHS 
13. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
14. Azithromycin 250 mg PO Q24H 
15. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
16. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY 
19. Clarinex (desloratadine) 5 mg oral DAILY 
20. Pravastatin 40 mg PO QPM 
21. FoLIC Acid 1 mg PO DAILY 
22. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
23. Torsemide 10 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q24H Duration: 5 Doses  
2.  Digoxin 0.25 mg PO DAILY  
3.  Lidocaine 5% Patch 1 PTCH TD QAM  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
7.  Aspirin 81 mg PO DAILY  
8.  Calcium Carbonate 1000 mg PO BID  
9.  Clarinex (desloratadine) 5 mg oral DAILY  
10.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
11.  Donepezil 10 mg PO QHS  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
15.  Levothyroxine Sodium 137.5 mcg PO DAILY  
16.  Mirtazapine 15 mg PO QHS  
17.  Multivitamins 1 TAB PO DAILY  
18.  Omeprazole 20 mg PO BID  
19.  Pravastatin 40 mg PO QPM  
20.  Pyridoxine 250 mg PO DAILY  
21.  Senna 8.6 mg PO DAILY  
22.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  Torsemide 10 mg PO 3X/WEEK (___)  
25.  Vitamin D ___ UNIT PO DAILY  
26. HELD- Azithromycin 250 mg PO Q24H  This medication was held. 
Do not restart Azithromycin until consider other antibiotics 
given interaction with Donepezil

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Acute on chronic diastolic congestive heart failure
Aspiration pneumonia
Syndrome of inappriate antidiuretic hormone
Atrial fibrillation with rapid ventricular rate

Secondary:
chronic obstructive pulmonary disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care while you were in the 
hospital. You were admitted because you were feeling short of 
breath. You were found to have a low sodium level, but this 
rapidly improved. You were given IV medication to remove fluid 
from around the lungs. You were also given antibiotics for a 
mild pneumonia. During the hospitalization, your heart rates 
increased, requiring adjustment of your medications as listed 
below. Your metoprolol dose was increased, and a drug, digoxin, 
was started. You also were noted to have abdominal pain and 
distension, and a nasogastric tube was placed to decompress your 
stomach, and improved your discomfort. At that time, a 
medication, diltiazem was stopped, as it was thought to be 
contributing to your stomach discomfort.

You likely developed a new mild pneumonia, and were treated 
first with and IV antibiotic, and one to take by mouth at the 
rehab. Your breathing was good without the need for additional 
oxygen at the time of your discharge from the hospital. Your 
abdominal discomfort improved as well.

WHAT YOU SHOULD DO AFTER LEAVING THE HOSPITAL:
1. Do not drink more than 1.5 liters of fluid a day
2. Drink only thickened liquids

Again, it has been a pleasure taking part in your care, and we 
wish you the best.

- Your ___ care team
 
Followup Instructions:
___